US08486952B2
2-chloro-4-(methylamino)-8-phenyl-7,8-dihydroquinazolin-8-ol
To a solution of 1-(2-chloro-6-(methylamino)-5-vinylpyrimidin-4-yl)-1-phenylbut-3-en-1-ol (60 mg) in benzene (5 mL) was added Grubbs I (16 mg), and the reaction mixture was heated at 85° C. for 1 h. The solvent was removed, and the residue was purified by preparative TLC eluting with 40% EtOAc/Hexanes to give the title compound as a colorless oil (50 mg). 1H NMR (500 MHz, CDCl3) δ ppm 7.4 (5H, m), 6.25 (1H, m), 6.07 (1H, m), 5.14 (1H, br. S), 4.52 (1H, s), 3.10 (3H, d<J=5.0 Hz), 2.99 (2H, m). 13C NMR (125 MHz, CDCl3) 164.32, 159.38, 158.85, 144.15, 128.24, 128.02, 127.83, 125.51, 117.54, 108.14, 60.51, 38.50, and 28.57. HRMS calcd. for C15FH15ClN3O (M+H) 288.0904. found: 288.0899.

reactant | 1-(2-chloro-6-(methylamino)-5-vinylpyrimidin-4-yl)-1-phenylbut-3-en-1-ol | 60 mg | ClC1=NC(=C(C(=N1)C(CC=C)(O)C1=CC=CC=C1)C=C)NC | C17H18ClN3O
solvent | benzene | 5 mL | C1=CC=CC=C1 | C6H6
catalyst | Grubbs I | 16 mg | Cl[Ru](Cl)([P](C1CCCCC1)(C2CCCCC2)C3CCCCC3)([P](C4CCCCC4)(C5CCCCC5)C6CCCCC6)=CC7=CC=CC=C7
product | 2-chloro-4-(methylamino)-8-phenyl-7,8-dihydroquinazolin-8-ol | 50 mg | ClC1=NC=2C(CC=CC2C(=N1)NC)(O)C1=CC=CC=C1 | C15H14ClN3O
